US08168793B2
To a stirred solution of 3,4-dimethoxy-5-nitro-benzoyl chloride (0.50 g, 2.04 mmol) in dichloromethane (10 mL) at 0° C., was added dropwise methylamine (1.02 mL, 2.04 mmol, 2 M in THF). The reaction mixture was stirred at room temperature till all starting material disappeared, then diluted with dichloromethane and washed with water. The organic phase was dried over anhydrous magnesium sulphate, filtered and evaporated to dryness to leave a crude residue that was recrystallised from a dichloromethane/isopropanol mixture to afford 3,4-dimethoxy-N-methyl-5-nitro-benzamide, 0.44 g (89%).

reactant | 3,4-dimethoxy-5-nitro-benzoyl chloride | 2.04 mmol, 0.50 g | COC=1C=C(C(=O)Cl)C=C(C1OC)[N+](=O)[O-] | C9H8ClNO5
reactant | methylamine | 2.04 mmol, 2 M, 1.02 mL | CN | CH5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3,4-dimethoxy-N-methyl-5-nitro-benzamide | COC=1C=C(C(=O)NC)C=C(C1OC)[N+](=O)[O-] | C10H12N2O5
